US07906517B2
Ethyl 4-{2-[benzyloxycarbonyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (3.0 g) is dissolved in tetrahydrofuran (20 ml) and thereto is added 10% palladium-carbon (500 mg) and the mixture is stirred under hydrogen atmosphere at room temperature for 2 hours and 30 minutes. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→1:1) to give ethyl 4-[2-(3,5-bis-trifluoromethyl-benzylamino)-pyrimidin-5-yloxy]-butyrate (2.22 g). MS (m/z): 452 [M+H]+

reactant | Ethyl 4-{2-[benzyloxycarbonyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 3.0 g | C(C1=CC=CC=C1)OC(=O)N(C1=NC=C(C=N1)OCCCC(=O)OCC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C27H25F6N3O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | ethyl 4-[2-(3,5-bis-trifluoromethyl-benzylamino)-pyrimidin-5-yloxy]-butyrate | 2.22 g | FC(C=1C=C(CNC2=NC=C(C=N2)OCCCC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C19H19F6N3O3
